US08791142B2
Step 2) 2′-Chloro-2-(methoxymethyl)biphenyl-4-carboxylic acid
To a solution of methyl 2′-chloro-2-(methoxymethyl)biphenyl-4-carboxylate (11 g, 37.8 mmol) in a mixture of THF (50 ml), MeOH (50 ml) and water (25 ml) was added lithium hydroxide monohydrate (4.76 g, 113.5 mmol) in portions. After 12 hours at RT, the reaction mixture was concentrated and the aqueous residual layer was acidified with a concentrated aqueous solution of HCl, and then extracted with EtOAc (2×100 mL). The organic layers were washed with water and brine, combined, dried (Na2SO4) and concentrated under reduced pressure to afford of the title compound as a white solid (7.5 g, 72%). LC/MS, M−(ESI): 275.0. 1H NMR (DMSO-d6, 400 MHz) δ 13.0 (1H, brs), 8.08 (1H, s), 7.92 (1H, d), 7.58 (1H, d), 7.44 (2H, m), 7.29 (2H, m), 4.21 (1H, dd), 4.13 (1H, dd), 3.16 (3H, s).

reactant | methyl 2′-chloro-2-(methoxymethyl)biphenyl-4-carboxylate | 37.8 mmol, 11 g | ClC1=C(C=CC=C1)C1=C(C=C(C=C1)C(=O)OC)COC | C16H15ClO3
reactant | MeOH | 50 ml | CO | CH4O
reactant | water | 25 ml | O | H2O
reactant | lithium hydroxide monohydrate | 113.5 mmol, 4.76 g | O.[OH-].[Li+]
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | 2′-Chloro-2-(methoxymethyl)biphenyl-4-carboxylic acid | 7.5 g, 72% | ClC1=C(C=CC=C1)C1=C(C=C(C=C1)C(=O)O)COC | C15H13ClO3
